US07417064B2
Add sodium borohydride (1.29 g, 34.1 mmol) to a stirred solution of 1-(benzyl-methyl-amino)-heptan-3-one (2.41 g, 10 mmol) and methanol (45ml) at 0° C. under N2. Stir the reaction for 1 hr at 0° C. Quench the reaction with water at 0° C. and concentrate under reduced pressure. Dissolve the residue in ethyl acetate, wash with brine and dry over sodium sulfate. Filter off and concentrate to give the crude compound. Purify the compound by flash chromatography, eluting with 5% ethanol/0.5% ammonium hydroxide/chloroform to yield 2.22 g (91%) of 1-(benzyl-methyl-amino)-heptan-3-ol: mass spectrum (ion spray) m/z=236 (M+1); 1H NMR (CDCl3) δ 7.3-7.23 (m, 5H), 3.76-3.72 (m, 1H), 3.53 (dd, 2H), 2.80-2.73 (m, 1H), 2.59-2.53 (m, 1H), 2.21 (s, 3H), 1.68-1.62 (m, 1H), 1.57-1.29 (m, 7H), 0.91 (t, 3H).

reactant | sodium borohydride | 34.1 mmol, 1.29 g | [BH4-].[Na+]
reactant | 1-(benzyl-methyl-amino)-heptan-3-one | 10 mmol, 2.41 g | C(C1=CC=CC=C1)N(CCC(CCCC)=O)C | C15H23NO
solvent | methanol | 45ml | CO | CH4O
product | 1-(benzyl-methyl-amino)-heptan-3-ol | 2.22 g, 91% | C(C1=CC=CC=C1)N(CCC(CCCC)O)C | C15H25NO
